US07060827B2
In a manner analogous to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 4-(N-benzylpiperazino)aniline (400 mg, 1.5 mmol) and 2,4-dichloro-5-fluoropyrimidine (50 mg, 0.3 mmol) resulted N2,N4-bis[4-(N-benzylpiperazino)phenyl]-5-fluoro-2,4-pyrimidinediamine (120 mg, 64%). 1H NMR (CDCl3): δ 2.63 (p, J=2.4 Hz, 8 H), 3.14 (t, J=4.8 Hz, 4 H), 3.19 (t, J=4.8 Hz, 4 H), 3.58 (s, 4 H), 6.58 (d, 1 H, NH), 6.67 (br, 1 H, NH), 6.87 (d, J=9.3 Hz, 2 H), 6.90 (d, J=9.0 Hz, 2 H), 7.33–7.39 (m, 12 H), 7.46 (d, J=9.0 Hz, 2 H), 7.87 (d, J=3.3 Hz, 1 H); 19F NMR (282 MHz, CDCl3): δ −169.06; LCMS: 16.82 min.; purity: 96.88%; MS (m/e): 629.12 (MH+).

reactant | N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine | OC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C16H13FN4O2
reactant | 4-(N-benzylpiperazino)aniline | 1.5 mmol, 400 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(N)C=C1 | C17H21N3
reactant | 2,4-dichloro-5-fluoropyrimidine | 0.3 mmol, 50 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | N2,N4-bis[4-(N-benzylpiperazino)phenyl]-5-fluoro-2,4-pyrimidinediamine | 120 mg, 64% | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1)F | C38H41FN8
